US05556969
Step 2: 3(R,S)-[2(R)-(tert-Butyloxycarbonyl)amino-3-phenylpropionylamino]-5-cyclohexyl-1,3-dihydro-1-methyl-2H-1,4-benzodiazepin-2-one
To a solution of 3(R,S)-amino-5-cyclohexyl-1,3-dihydro-1-methyl-2H-1,4-benzodiazepin-2-one (4 g) in anhydrous dimethylformamide (35 ml), under an atmosphere of nitrogen, was added in succession Boc-D-phenyl-alanine (4.11 g), 1-hydroxybenzotriazole trihydrate (2.09 g) and 1-ethyl-3-[3-(dimethylamino)propyl]carbodiimide hydrochloride (2.97 g). Triethylamine (2.16 ml) was then added and the resulting suspension was stirred at ambient temperature for 20 min. The solvent was removed under reduced pressure and the residue was partitioned between ethyl acetate (50 ml) and 10% citric add solution (50 ml). The organic phase was separated and the aqueous phase extracted with ethyl acetate (3×50 ml). The combined organic phases were washed with 10% sodium hydroxide solution (50ml), water (50 ml) and brine (50 ml), dried (MgSO4) and evaporated in vacuo. The residue was chromatographed on silica gel, using 1:1 petrol:ethyl acetate as the eluant, to afford the product (7.26 g), mp 95°-98° C. 1H NMR (360 MHz, CDCl3) δ 0.99-1.11 (1H, m), 1.16-1.72 (7H, m), 1.40 (9H, s), 1.83-1.92 (1H, m), 1.98-2.06(1H, m), 2.73-2.83 (1H, m), 3.10-3.24) (2H, m), 3.38 (3H, s), 4.53 (1H, brs), 4.98 (1H, brs), 5.28-5.34 (2H, m), 7.19-7.32 (7H, m), 7.49-7.58 (2H, m).

reactant | 3(R,S)-amino-5-cyclohexyl-1,3-dihydro-1-methyl-2H-1,4-benzodiazepin-2-one | 4 g | NC1C(N(C2=C(C(=N1)C1CCCCC1)C=CC=C2)C)=O | C16H21N3O
reactant | Boc-D-phenyl-alanine | 4.11 g | C(=O)(OC(C)(C)C)N[C@H](CC1=CC=CC=C1)C(=O)O | C14H19NO4
reactant | 1-hydroxybenzotriazole trihydrate | 2.09 g | O.O.O.ON1N=NC2=C1C=CC=C2
reactant | 1-ethyl-3-[3-(dimethylamino)propyl]carbodiimide hydrochloride | 2.97 g | Cl.C(C)N=C=NCCCN(C)C
solvent | dimethylformamide | 35 ml | CN(C=O)C | C3H7NO
solvent | Triethylamine | 2.16 ml | C(C)N(CC)CC | C6H15N
product | 3(R,S)-[2(R)-(tert-Butyloxycarbonyl)amino-3-phenylpropionylamino]-5-cyclohexyl-1,3-dihydro-1-methyl-2H-1,4-benzodiazepin-2-one | 7.26 g | C(C)(C)(C)OC(=O)N[C@@H](C(=O)NC1C(N(C2=C(C(=N1)C1CCCCC1)C=CC=C2)C)=O)CC2=CC=CC=C2 | C30H38N4O4
